* /Users/rodrigovazquez/Library/Mobile Documents/3L68KQB4HG~com~readdle~CommonDocuments/Documents/ADC/TP2019/Simulacion/PasaAlto.asc
C1 N001 N002 33n
C2 N003 N001 33n
R2 N003 0 20k
R1 Vout N001 4.7k
XU2 N003 Vout V+ V- Vout TL081
V2 V+ 0 5
V3 0 V- 5
V1 N002 0 1 AC 1
.inc "/Users/rodrigovazquez/Library/Mobile Documents/3L68KQB4HG~com~readdle~CommonDocuments/Documents/ADC/TP/Simulacion/TL081.301"
.ac dec 100 50 4000
.backanno
.end
